US07470679B2
2-(R)-Benzyloxycarbonylamino-3-(4-chloromethyl-1H-indazol-5-yl)-propionic acid methyl ester hydrochloride
2-(R)-Benzyloxycarbonylamino-3-(4-tert-butoxycarbonylamino-2-hydroxymethyl-3-methyl-phenyl)-propionic acid methyl ester hydrochloride was reacted in a manner analogous to the preparation of 2-(S)-(4-chloromethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester hydrochloride. Title compound was obtained as an orange solid in 99% yield. 1H NMR (300 MHz, CD3OD): δ=8.43 (s, 1H), 7.50 (d, J=8.8, 1H), 7.38 (d, J=8.4, 1H), 7.24 (m, 5H), 5.06 (d, J=11.0, 1H), 4.98 (d, J=4.8, 2H), 4.56 (dd, J1=5.7, J2=9.3, 1H), 3.71 (s, 3H), 3.42 (dd, J1=5.5, J2=14.3, 1H), 3.17 (dd, J1=9.3, J2=14.1, 1H). MS m/e (M+H)+=402.0.

reactant | 2-(R)-Benzyloxycarbonylamino-3-(4-tert-butoxycarbonylamino-2-hydroxymethyl-3-methyl-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@@H](CC1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)CO)NC(=O)OCC1=CC=CC=C1)=O
reactant | 2-(S)-(4-chloromethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester hydrochloride | Cl.COC([C@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CCl)=O
product | 2-(R)-Benzyloxycarbonylamino-3-(4-chloromethyl-1H-indazol-5-yl)-propionic acid methyl ester hydrochloride | 99% yield | Cl.COC([C@@H](CC=1C(=C2C=NNC2=CC1)CCl)NC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C20H20ClN3O4.ClH/c1-27-19(25)18(23-20(26)28-12-13-5-3-2-4-6-13)9-14-7-8-17-16(11-22-24-17)15(14)10-21;/h2-8,11,18H,9-10,12H2,1H3,(H,22,24)(H,23,26);1H/t18-;/m1./s1
